US07345056B2
To a stirring mixture of 9-(4-chloro-benzenesulfonyl)-3-oxa-9-aza-bicyclo[3.3.1]nonan-7-one (170 mg, 0.54 mmol) in THF/ethanol (3 mL, 1/1, v/v) was added ethyl formate (400 mg, 5.4 mmol) followed by sodium ethoxide (0.61 mL of 21% solution in ethanol). The resulting mixture was heated to 60° C. for 30 minutes after which the solution was cooled to room temperature and quenched by the addition of a saturated aqueous NH4Cl solution (10 mL). The resulting mixture was extracted with EtOAc (2×20 mL) and the combined organic phases were dried (Na2SO4), filtered and concentrated under vacuum to yield 9-(4-chloro-benzenesulfonyl)-2-hydroxymethylene-9-aza-bicyclo[3.3.1]nonan-3-one as a yellow solid. This crude product was directly taken to the next reaction without any further purification. Retention time (min)=1.651 min, Method [1], MS (ESI) 344.0 (M+H).

reactant | 9-(4-chloro-benzenesulfonyl)-3-oxa-9-aza-bicyclo[3.3.1]nonan-7-one | 0.54 mmol, 170 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1C2COCC1CC(C2)=O | C13H14ClNO4S
reactant | ethyl formate | 5.4 mmol, 400 mg | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | 0.61 mL | [O-]CC.[Na+]
solvent | THF ethanol | C1CCOC1.C(C)O
product | 9-(4-chloro-benzenesulfonyl)-2-hydroxymethylene-9-aza-bicyclo[3.3.1]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)=CO | C15H16ClNO4S
